US07825244B2
b. 4-[7-(2-Methanesulfonyloxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 4-[7-(2-hydroxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (90 mg, 0.24 mmol) and DIPEA (167.2 μL) in CH2Cl2 (5 mL) was added MsCl (37.2 μL). The reaction mixture was stirred for 4 h and the solvents were evaporated. The residue was purified by flash column chromatography on silica gel (EtOAc as eluent) to afford almost pure product. 1H NMR (CDCl3) δ 9.15 (s, 1H), 8.09 (d, J=9.33 Hz, 1H), 7.33 (d, J=2.44 Hz, 1H), 7.29 (dd, J=9.18 and 2.59 Hz, 1H), 4.66 (t, J=4.29 Hz, 2H), 4.42 (t, J=4.39 Hz, 2H), 4.33 (m, 2H), 3.61 (m, 1H), 3.11 (s, 3H), 2.94 (m, 2H), 1.83-2.10 (4H), 1.48 (s, 9H). Calcd for C21H30N3O6S (MH+) 452.2, found 452.2.

reactant | 4-[7-(2-hydroxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.24 mmol, 90 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCO | C20H27N3O4
reactant | DIPEA | 167.2 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | MsCl | 37.2 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[7-(2-Methanesulfonyloxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCOS(=O)(=O)C | C21H29N3O6S
